US07923456B2
Step 1: 2-(4-Bromo-2-fluoro-phenylamino)-5-fluoro-6-formylaminomethyl-nicotinic acid methyl ester
To a solution of 5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-6-formylaminomethyl-nicotinic acid methyl ester (2.6 g, 6.6 mmol) in dichloromethane (65 mL) at −30° C. was added NBS (1.2 g, 6.6 mmol). The reaction mixture was stirred at −30° C. for 1.5 hours, and then concentrated under reduced pressure The resultant residue was taken up in ethyl acetate and this organic solution was washed with a saturated aqueous solution of sodium bicarbonate, followed by brine, dried (Na2SO4), filtered and evaporated in vacuo to afford the title compound as a brown solid (2.49 g, 95%). LCMS (method B): RT=3.79 min, [M+H]+=400/402.

reactant | 5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-6-formylaminomethyl-nicotinic acid methyl ester | 6.6 mmol, 2.6 g | COC(C1=C(N=C(C(=C1)F)CNC=O)NC1=C(C=C(C=C1)[Si](C)(C)C)F)=O | C18H21F2N3O3Si
reactant | NBS | 6.6 mmol, 1.2 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | dichloromethane | 65 mL | ClCCl | CH2Cl2
product | 2-(4-Bromo-2-fluoro-phenylamino)-5-fluoro-6-formylaminomethyl-nicotinic acid methyl ester | 2.49 g, 95% | COC(C1=C(N=C(C(=C1)F)CNC=O)NC1=C(C=C(C=C1)Br)F)=O | C15H12BrF2N3O3
